US05789409
A 200 ml eggplant-shaped flask was charged with 5.38 g of methyl 4-bromomethylphenylacetate, 6.06 g of 1-benzhydrylpiperazine, 6.1 ml of triethylamine, and 100 ml of dioxane and the mixture was stirred at room temperature for 5 hours. The solvent was then distilled off and the residue was extracted with ethyl acetate. The extract was washed with water, the solvent was distilled off, and the residue was recrystallized from methanol to provide 8.33 g of methyl 4-[(4-diphenylmethyl-1-piperazinyl)methyl]phenylacetate melting at 124° C.-125° C.

reactant | methyl 4-bromomethylphenylacetate | 5.38 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | 1-benzhydrylpiperazine | 6.06 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | triethylamine | 6.1 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 4-[(4-diphenylmethyl-1-piperazinyl)methyl]phenylacetate | 8.33 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | C27H30N2O2
